US04472433
(2) Preparation of 2-oxo-7-(2-aminophenoxy)indoline
A mixture of 2-oxo-3-methylthio-7-(2-aminophenoxy)indoline (4.5 g.), Raney nickel (W-2 type)(9 ml.) and dioxane (50 ml.) was treated in a similar manner to that of the Preparation 15-(2) to give the captioned compound (3.5 g.) mp 210° to 212° C.

reactant | 2-oxo-3-methylthio-7-(2-aminophenoxy)indoline | 4.5 g | O=C1NC2=C(C=CC=C2C1SC)OC1=C(C=CC=C1)N | C15H14N2O2S
catalyst | Raney nickel | 9 ml | [Ni] | Ni
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-oxo-7-(2-aminophenoxy)indoline | O=C1NC2=C(C=CC=C2C1)OC1=C(C=CC=C1)N | C14H12N2O2
